US07026349B2
b) 2-((R)-1-Methyl-pyrrolidin-3-yloxy)-4-nitrobenzotrifluoride
A solution of 2-fluoro-4-nitrobenzotrifluoride (12.4 g, 59.3 mmol, 1.0 eq) and (R)-1-methyl-pyrrolidin-3-ol (6.0 g, 59.3 mmol, 1.0 eq) in anhydrous tetrahydrofuran (150 ml) was cooled to 0° C. then slowly treated with portions of 60% sodium hydride (4.7 g, 0.12 mol, 2 eq) over 5 min. Without removing the ice bath, the reaction was allowed to come to room temperature and stir for 48 hrs. Quenched with water (50 ml) and brine (100 ml) then extracted into diethyl ether (5×100 ml). Extracts dried over anhydrous magnesium sulfate and decolorizing charcoal for 1 hr. Filtered through Celite. The filtrate was treated with silica (35 g) then evaporated to give the crude product suspended on silica. Column chromatography on silica (1% MeOH/EtOAc→5% MeOH/EtOAc) gave the product (Rf≅0.3 in 1% MeOH/EtOAc) as an orange oil (7.85 g, 46%).

reactant | 2-fluoro-4-nitrobenzotrifluoride | 59.3 mmol, 12.4 g, 1.0 eq | FC1=C(C=CC(=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | (R)-1-methyl-pyrrolidin-3-ol | 59.3 mmol, 6.0 g, 1.0 eq | CN1C[C@@H](CC1)O | C5H11NO
reactant | sodium hydride | 0.12 mol, 4.7 g, 2 eq | [H-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 2-((R)-1-Methyl-pyrrolidin-3-yloxy)-4-nitrobenzotrifluoride | 7.85 g, 46% | CN1C[C@@H](CC1)OC1=C(C=CC(=C1)[N+](=O)[O-])C(F)(F)F | C12H13F3N2O3
